US07074801B1
2-(5-Bromo-2-pyridinylamino)-1-cyanoethyl toluene-4-sulfonate
7.2 g of 3-(5-bromo-2-pyridinylamino)-2-hydroxypropionitrile was dissolved in 60 mL dichloromethane, and 7.8 mL diisopropyl ethylamine and 6.3 g of 4-toluenesulfonic acid chloride were added thereto, and while the temperature of the mixture was gradually increased to room temperature, the mixture was stirred for 2 hours. An aqueous saturated sodium bicarbonate solution was poured into the reaction mixture which was then extracted with ethyl acetate and washed with brine, then the organic layer was dried over anhydrous sodium sulfate, the solvent was removed, and the resulting crude product was purified by silica gel column chromatography (ethyl acetate/hexane) to give 7.64 g of the title compound (yellow oil).

reactant | 3-(5-bromo-2-pyridinylamino)-2-hydroxypropionitrile | 7.2 g | BrC=1C=CC(=NC1)NCC(C#N)O | C8H8BrN3O
reactant | diisopropyl ethylamine | 7.8 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-toluenesulfonic acid chloride | 6.3 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | 2-(5-Bromo-2-pyridinylamino)-1-cyanoethyl toluene-4-sulfonate | 7.64 g | C1(=CC=C(C=C1)S(=O)(=O)OC(CNC1=NC=C(C=C1)Br)C#N)C | C15H14BrN3O3S
